US04761413
A mixture of catechol (11.0 g, 0.10M), benzylbromide (25.0 ml, 0.21M) and finely powdered anhydrous K2CO3 (44.2 g, 0.32M) in DMF (60 ml) was stirred at room temperature under N2 for 72 hours. The mixture was then diluted with Et2O and filtered. The ether solution was washed with three portions of distilled water, one portion of saturated NaCl solution, dried (K2CO3) and concentrated in vacuo. The residue was recrystallized from hexane to give dibenzyloxybenzene (27.04 g, 93% yield) as white crystals, mp 58°-59° C. (literature: Page et al., J. Org. Chem. 27, 218 (1962), mp 58°-59° C.).

reactant | catechol | 0.10M, 11.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | benzylbromide | 0.21M, 25.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 0.32M, 44.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | dibenzyloxybenzene | 27.04 g, 93% yield | C(C1=CC=CC=C1)OC1=C(C=CC=C1)OCC1=CC=CC=C1 | C20H18O2
